US04126623
Preparation of 1-chloro-1-fluoro-7-benzylthio-hept-1-ene (our mark JH107):
Operating as described in Example 10, from 3 g of 1,7-dichloro-1-fluoro-hept-1-ene, 2.14 g of benzylmercaptan, 0.7 g of NaH (at 55% concentration in paraffin oil) and 30 ml of N,N-dimethylformamide there were obtained 2.8 g of product which was purified in a chromatography column.

reactant | 1,7-dichloro-1-fluoro-hept-1-ene | 3 g | ClC(=CCCCCCCl)F | C7H11Cl2F
reactant | benzylmercaptan | 2.14 g | C(C1=CC=CC=C1)S | C7H8S
reactant | NaH | 0.7 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-chloro-1-fluoro-7-benzylthio-hept-1-ene | 2.8 g | ClC(=CCCCCCSCC1=CC=CC=C1)F | C14H18ClFS
